US05053511
To a solution consisting of 3,3-bis-(4-pyridinylmethyl)-1,3-dihydro-1-[(phenylmethylene)amino]-2H-indol-2-one (7.84 g) and absolute ethanol (68 ml) was added hydrazine hydrate (6.4 ml). The resulting mixture was heated at reflux for 5.75 hours, followed by cooling to 0° C. The product crystallized upon cooling. Filtration and washing with ether-pentane afforded 2.50 g of 1-amino-3,3-bis(4-pyridinylmethyl)-1,3-dihydro-2H-indol-2-one.

reactant | 3,3-bis-(4-pyridinylmethyl)-1,3-dihydro-1-[(phenylmethylene)amino]-2H-indol-2-one | 7.84 g | N1=CC=C(C=C1)CC1(C(N(C2=CC=CC=C12)N=CC1=CC=CC=C1)=O)CC1=CC=NC=C1 | C27H22N4O
reactant | hydrazine hydrate | 6.4 ml | O.NN
solvent | ethanol | 68 ml | C(C)O | C2H6O
product | 1-amino-3,3-bis(4-pyridinylmethyl)-1,3-dihydro-2H-indol-2-one | 2.50 g | NN1C(C(C2=CC=CC=C12)(CC1=CC=NC=C1)CC1=CC=NC=C1)=O | C20H18N4O
